US08729102B2
B) tert-butyl {(1S)-2-[(6-{6-[2-(2,2-difluorocyclopropyl)ethoxy]-1,3-benzoxazol-2-yl}-5-fluoropyridin-3-yl)oxy]-1-methylethyl}carbamate
Triethylamine (14.1 mL) was added to a solution of hexachloroethane (7.46 g) and triphenylphosphine (9.91 g) in acetonitrile (50 mL) at room temperature, and the mixture was stirred at room temperature for 10 min. Then a mixture of tert-butyl [(1S)-2-({6-[(2,4-dihydroxyphenyl)carbamoyl]-5-fluoropyridin-3-yl}oxy)-1-methylethyl]carbamate (5.31 g) and acetonitrile (50 mL) was added, and the mixture was stirred at room temperature for 2 hr. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give tert-butyl [(1S)-2-{[5-fluoro-6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate (10.7 g) as a mixture with impurities. A mixture of tert-butyl [(1S)-2-{[5-fluoro-6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate (4.28 g, a mixture with impurities), 2-(2,2-difluorocyclopropyl)ethyl methanesulfonate (0.531 g), potassium carbonate (0.367 g), and DMF (30 mL) was stirred at 60° C. for 1 hr. Then additional 2-(2,2-difluorocyclopropyl)ethyl methanesulfonate (0.531 g) and potassium carbonate (0.367 g) were added, and the mixture was stirred at 60° C. for 1 hr. Then additional 2-(2,2-difluorocyclopropyl)ethyl methanesulfonate (1.06 g) and potassium carbonate (0.733 g) were added, and the mixture was stirred at 60° C. for 1 hr. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (1.83 g) as a colorless oil.

reactant | tert-butyl [(1S)-2-{[5-fluoro-6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate | FC=1C=C(C=NC1C=1OC2=C(N1)C=CC(=C2)O)OC[C@H](C)NC(OC(C)(C)C)=O | C20H22FN3O5
reactant | 2-(2,2-difluorocyclopropyl)ethyl methanesulfonate | 0.531 g | CS(=O)(=O)OCCC1C(C1)(F)F | C6H10F2O3S
reactant | potassium carbonate | 0.367 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | 2-(2,2-difluorocyclopropyl)ethyl methanesulfonate | 0.531 g | CS(=O)(=O)OCCC1C(C1)(F)F | C6H10F2O3S
reactant | potassium carbonate | 0.367 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2,2-difluorocyclopropyl)ethyl methanesulfonate | 1.06 g | CS(=O)(=O)OCCC1C(C1)(F)F | C6H10F2O3S
reactant | potassium carbonate | 0.733 g | C([O-])([O-])=O.[K+].[K+]
solvent | Water | O | H2O
product | tert-butyl {(1S)-2-[(6-{6-[2-(2,2-difluorocyclopropyl)ethoxy]-1,3-benzoxazol-2-yl}-5-fluoropyridin-3-yl)oxy]-1-methylethyl}carbamate | 1.83 g | FC1(C(C1)CCOC1=CC2=C(N=C(O2)C2=C(C=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)F)C=C1)F | C25H28F3N3O5
